US08211908B2
To 2.9 g of 5-chloro-2-methoxypyrimidin-4-amine, 2.35 mL of ethyl acrylate, 18 mL of triethylamine, and 0.46 g of bis(tri-tert-butylphosphine)palladium(0) were added, and the mixture was stirred at an external temperature of 115 to 130° C. for 5 hours in a sealed tube. Thereto were further added 5 mL of triethylamine, 0.30 g of bis(tri-tert-butylphosphine)palladium(0) and 0.5 mL of ethyl acrylate, and the mixture was stirred at an external temperature of 120 to 130° C. for 6 hours 30 minutes in a sealed tube. The reaction mixture was cooled to room temperature, and water and ethyl acetate were added thereto. The organic layer was separated, and the aqueous layer was extracted with chloroform and ethyl acetate. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of hexane:ethyl acetate=1:1 to obtain 0.89 g of ethyl (2E)-3-(4-amino-2-methoxypyrimidin-5-yl)acrylate as a yellow solid.

reactant | 5-chloro-2-methoxypyrimidin-4-amine | 2.9 g | ClC=1C(=NC(=NC1)OC)N | C5H6ClN3O
reactant | ethyl acrylate | 2.35 mL | C(C=C)(=O)OCC | C5H8O2
reactant | triethylamine | 18 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acrylate | 0.5 mL | C(C=C)(=O)OCC | C5H8O2
reactant | water | O | H2O
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.46 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.30 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl (2E)-3-(4-amino-2-methoxypyrimidin-5-yl)acrylate | 0.89 g | NC1=NC(=NC=C1/C=C/C(=O)OCC)OC | C10H13N3O3
